US06340759B1
5,7-Dibromothieno[2,3-c]pyridine (2.04 g), 1-ethylpiperidine (0.95 g) and potassium carbonate (2.0 g) were reacted in N,N-dimethylformamide (15 ml) at 70° C. for 2 hr. The reaction mixture was evaporated, and the resulting residue was partitioned between ethyl acetate and water. The ethyl acetate layer was washed with water and brine, and dried over magnesium sulfate. The resulting residue was purified by silica gel column chromatography (ethyl acetate/methanol system), to give 7-(4-ethylpiperidin-1-yl)-5-bromothieno[2,3-c]pyridine (1.95 g) as a brown oil.

reactant | 5,7-Dibromothieno[2,3-c]pyridine | 2.04 g | BrC=1C=C2C(=C(N1)Br)SC=C2 | C7H3Br2NS
reactant | 1-ethylpiperidine | 0.95 g | C(C)N1CCCCC1 | C7H15N
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 7-(4-ethylpiperidin-1-yl)-5-bromothieno[2,3-c]pyridine | 1.95 g | C(C)C1CCN(CC1)C=1N=C(C=C2C1SC=C2)Br | C14H17BrN2S
